US08114846B2
Methyl trans-4-{[(3-amino-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)methyl]carbamoyl}cyclohexanecarboxylate
A solution of 3-amino-6-(aminomethyl)-1,2,4-triazin-5(4H)-one [J. Heterocyclic Chem., (1984), 21(3), 697] (2.00 g, 0.0113 mol) in H2O (60.0 mL, 3.33 mol) was cooled to 0° C. and drop wise charged with 1.00 M of NaHCO3 in H2O (22.5 mL) and allowed to warm to rt. This mixture was charged with methyl trans-4-{[(2,5-dioxopyrrolidin-1-yl)oxy]carbonyl}cyclohexanecarboxylate (3.8 g, 0.012 mol) in 1:1 THF/MeCN (40 mL). After 30 min a precipitate began to form in the reaction. This was allowed to stir at rt for an additional 16 h and was filtered through a fitted funnel and washed with H2O (2×), diethyl ether (2×), and dried in vacuo resulting in the title compound 2.92 g, (84% yield) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.24-1.55 (m, 4H), 1.83 (s, 2H), 1.98 (d, J=10.61 Hz, 2H), 2.27 (s, 2H), 3.64 (s, 3H), 4.10 (d, J=5.81 Hz, 2H), 6.81 (br. s., 2H), 7.91 (t, J=5.56 Hz, 1H) and 11.98 (br. s., 1H); MS (ES+): m/z 310.05 [MH+].

reactant | 3-amino-6-(aminomethyl)-1,2,4-triazin-5(4H)-one | 0.0113 mol, 2.00 g | NC1=NN=C(C(N1)=O)CN | C4H7N5O
reactant | NaHCO3 | 1.00 M | C(=O)(O)[O-].[Na+]
reactant | methyl trans-4-{[(2,5-dioxopyrrolidin-1-yl)oxy]carbonyl}cyclohexanecarboxylate | 0.012 mol, 3.8 g | O=C1N(C(CC1)=O)OC(=O)[C@@H]1CC[C@H](CC1)C(=O)OC | C13H17NO6
reactant | THF MeCN | 40 mL | C1CCOC1.CC#N
solvent | H2O | 22.5 mL | O | H2O
solvent | H2O | 3.33 mol, 60.0 mL | O | H2O
product | Methyl trans-4-{[(3-amino-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)methyl]carbamoyl}cyclohexanecarboxylate | 2.92 g, 84% yield | NC1=NN=C(C(N1)=O)CNC(=O)[C@@H]1CC[C@H](CC1)C(=O)OC | C13H19N5O4
